US07485643B2
Step A: Preparation of 6-bromo-2,3,4-trifluorobenzoic acid.
To a solution of i-Pr2NH (3.65 mL, 25.8 mmol) in THF (50 mL) was added n-BuLi (10.3 mL, 25.8 mmol, 2.50 M solution in hexanes) at 0° C. After stirring for 15 minutes, the reaction mixture was cooled to −78° C. A solution of 5-bromo-1,2,3-trifluorobenzene (5.00 g, 23.7 mmol) in THF (5 mL) was added. The resulting mixture was stirred for 2 hours at −78° C., poured into an excess of freshly crushed dry ice, and stirred for 30 minutes To this mixture was added 10% aqueous HCl to adjust its pH to 1. The resulting mixture was extracted with ether (3×). The combined organic layers were washed with 5% aqueous NaOH (2×). The combined basic aqueous layers were acidified to pH 1 with concentrated HCl, and extracted with ether (2×). The combined organic layers were washed with water, dried over MgSO4, filtered, and concentrated in vacuo to give the desired product (5.06 g, 84%) that was used directly without further purification.

reactant | i-Pr2NH | 25.8 mmol, 3.65 mL | N(C(C)C)C(C)C | C6H15N
reactant | n-BuLi | 25.8 mmol, 2.50 M, 10.3 mL | [Li]CCCC
reactant | 5-bromo-1,2,3-trifluorobenzene | 23.7 mmol, 5.00 g | BrC=1C=C(C(=C(C1)F)F)F | C6H2BrF3
reactant | dry ice | C(=O)=O | CO2
reactant | HCl | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-bromo-2,3,4-trifluorobenzoic acid | 5.06 g, 84% | BrC1=CC(=C(C(=C1C(=O)O)F)F)F | C7H2BrF3O2
